US04424372
A mixture of potassium 4-n-pentylbenzene sulfonate (65 g, 0.243 m) and phosphoryl chloride (75 g, 0.492 m) was heated to approximately 170° C. with stirring until the reaction mixture became less viscous. Heating continued for approximately one hour. The hot reaction mixture was poured into cold water (1600 ml) and the reaction product was extracted with chloroform (2×600 ml). The extract was washed with water until it was neutralized and dried over anhydrous sodium sulfate. The solvent (chloroform) was evaporated and the extract was vacuum-distilled to give 4-n-pentylbenzenesulfonyl chloride (52 g, 87%, boiling point 132°-134° C./0.3 mm).

reactant | potassium 4-n-pentylbenzene sulfonate | 65 g | C(CCCC)C1=CC=C(C=C1)S(=O)(=O)[O-].[K+]
reactant | phosphoryl chloride | 75 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 1600 ml | O | H2O
product | 4-n-pentylbenzenesulfonyl chloride | 52 g, 87% | C(CCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H15ClO2S
